US09063126B2
7-methyl-2,3,4,5-tetrahydro-1,4-ethanopyrido[3,2-b]indole
2-Iodo-5-methylaniline (1.0 g, 4.29 mmol; Amfinecom), quinuclidin-3-one hydrochloride (1.24 g, 7.67 mmol; Aldrich), palladium(II) acetate (48 mg, 0.22 mmol; Aldrich), 1,4-diazabicyclo[2.2.2]octane (DABCO; 1.73 g, 15.4 mmol; Aldrich) and magnesium sulfate (0.88 g, 7.31 mmol) were processed as described in Example 205A to provide the title compound: 1H NMR (500 MHz, methanol-d4) δ ppm 1.52-1.63 (m, 2H), 1.94-2.05 (m, 2H), 2.40 (s, 3H), 2.59-2.71 (m, 2H), 3.26 (ddd, J=12.2, 8.5, 4.3 Hz, 2H), 3.40 (quintet, J=2.9 Hz, 1H), 6.85 (d, J=7.3, 0.7 Hz, 1H), 7.14 (s, 1H), 7.42 (d, J=7.9 Hz, 1H); MS (DCI) m/z 213 (M+H)+.

reactant | 2-Iodo-5-methylaniline | 4.29 mmol, 1.0 g | IC1=C(N)C=C(C=C1)C | C7H8IN
reactant | quinuclidin-3-one hydrochloride | 7.67 mmol, 1.24 g | Cl.N12CC(C(CC1)CC2)=O
reactant | 1,4-diazabicyclo[2.2.2]octane | 15.4 mmol, 1.73 g | N12CCN(CC1)CC2 | C6H12N2
reactant | magnesium sulfate | 7.31 mmol, 0.88 g | S(=O)(=O)([O-])[O-].[Mg+2]
catalyst | palladium(II) acetate | 0.22 mmol, 48 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-methyl-2,3,4,5-tetrahydro-1,4-ethanopyrido[3,2-b]indole | CC=1C=CC=2C3=C(NC2C1)C1CCN3CC1 | C14H16N2
